US07737135B2
a) 4-bromo-N-cyclopropyl-2-fluoro-benzamide
The sub-title compound was prepared by the method of example 18 step a) using) 4-bromo-2-fluorobenzoic acid, and cyclopropylamine.

reactant | 4-bromo-2-fluorobenzoic acid | BrC1=CC(=C(C(=O)O)C=C1)F | C7H4BrFO2
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | 4-bromo-N-cyclopropyl-2-fluoro-benzamide | BrC1=CC(=C(C(=O)NC2CC2)C=C1)F | C10H9BrFNO
